US05852019
(1) 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-(1,2,3,4-tetrahydroisoquinolin-2-yl)-1-propanone hydrochloride
1.01 g of 1-(2-pyrimidinyl)-4-acetyl-5-methylpyrazole was dissolved in 100 ml of ethanol. After adding 450 mg of paraformaldehyde and 848 mg of 1,2,3,4-tetrahydroisoquinoline hydrochloride, the mixture was heated under reflux overnight. Next, 200 mg of paraformaldehyde was further added to the reaction mixture which was then concentrated by heating under reflux overnight. To the obtained residue was added chloroform. Then it was washed with a saturated aqueous solution of sodium hydrogencarbonate and a saturated aqueous solution of sodium chloride, and dried over anhydrous sodium sulfate. After evaporating the solvent, the residue was subjected to silica gel column chromatography and developed with a solvent mixture (chloroform/methanol, 30:1). A fraction containing the terget compound was concentrated. To the residue thus obtained was added a 1N hydrochloric acid/ethanol solution. After concentration, ethanol was added to the residue. After recrystallization, 550 mg of the title compound was obtained.

reactant | 1-(2-pyrimidinyl)-4-acetyl-5-methylpyrazole | 1.01 g | N1=C(N=CC=C1)N1N=CC(=C1C)C(C)=O | C10H10N4O
reactant | paraformaldehyde | 450 mg | C=O | CH2O
reactant | 1,2,3,4-tetrahydroisoquinoline hydrochloride | 848 mg | Cl.C1NCCC2=CC=CC=C12
reactant | paraformaldehyde | 200 mg | C=O | CH2O
reactant | hydrochloric acid ethanol | 1N | Cl.C(C)O
solvent | ethanol | 100 ml | C(C)O | C2H6O
product | 1-[5-Methyl-1-(2-pyrimidinyl)-4-pyrazolyl]-3-(1,2,3,4-tetrahydroisoquinolin-2-yl)-1-propanone hydrochloride | 550 mg | Cl.CC1=C(C=NN1C1=NC=CC=N1)C(CCN1CC2=CC=CC=C2CC1)=O | InChI=1S/C20H21N5O.ClH/c1-15-18(13-23-25(15)20-21-9-4-10-22-20)19(26)8-12-24-11-7-16-5-2-3-6-17(16)14-24;/h2-6,9-10,13H,7-8,11-12,14H2,1H3;1H
